US08017602B2
Step i) (R)—N-(2,2-Dimethoxyethyl)-3-(3-(1-isopropyl-1H-pyrazol-4-yl)phenethoxy)-N-(pentan-2-yl)propanamide
The subtitled compound (100 mg) was prepared from 3-(3-(1-isopropyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 20 Step iii)] and ((R)—N-(2,2-dimethoxyethyl)pentan-2-amine [Preparation 10] using a similar method to that described in Example 18, Step iii). MS [M+H-MeOH]+=428 (MultiMode+) 1H NMR (400 MHz, CD3OD) δ 8.01 and 8.00 (2×s, 1H), 7.79 (s, 1H), 7.42-7.34 (m, 2H), 7.23 (t, J=7.7 Hz, 1H), 7.05 (d, J=7.7 Hz, 1H), 4.56 and 4.40 (2×t, J=5.3 Hz, 1H), 4.53 (septet, J=6.7 Hz, 1H), 4.26-4.16 and 3.96-3.86 (2×m, 1H), 3.75-3.64 (m, 4H), 3.34 (s, 3H), 3.32 (s, 3H), 3.25-3.10 (m, 2H), 2.84 (t, J=6.5 Hz, 2H), 2.72-2.50 (m, 2H), 1.60-1.14 (m, 4H), 1.51 (d, J=6.9 Hz, 6H), 1.10 and 1.09 (2×d, J=6.7 Hz, 3H), 0.86 (t, J=7.3 Hz, 3H); a ˜1:1 mixture of rotamers is observed.

reactant | 3-(3-(1-isopropyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | C(C)(C)N1N=CC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C17H22N2O3
reactant | (R)—N-(2,2-dimethoxyethyl)pentan-2-amine | COC(CN[C@H](C)CCC)OC | C9H21NO2
product | (R)—N-(2,2-Dimethoxyethyl)-3-(3-(1-isopropyl-1H-pyrazol-4-yl)phenethoxy)-N-(pentan-2-yl)propanamide | 100 mg | COC(CN(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C(C)C)=O)[C@H](C)CCC)OC | C26H41N3O4
